US07160902B2
a) (4-Cyano-phenylamino)-acetic acid
A solution of 4-aminobenzonitrile (12 g, 101.6 mmol) and chloroacetic acid (20 g, 211.6 mmol) in water (250 mL) was refluxed until the product began to separate out. After cooled down to the room temperature, the solids were collected by filtration, washed with ether, and dried in vacuo to afford 10.35 g (58%) of the title compound which was pure enough for the next reaction. 1H NMR (400 MHz, DMSO-d6) δ 12.73 (s, 1H), 7.46 (dd, 2H), 6.93 (t, 1H), 6.65 (dd, 2H), 3.91 (d, 2H).

reactant | 4-aminobenzonitrile | 101.6 mmol, 12 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | chloroacetic acid | 211.6 mmol, 20 g | ClCC(=O)O | C2H3ClO2
solvent | water | 250 mL | O | H2O
product | (4-Cyano-phenylamino)-acetic acid | 10.35 g, 58% | C(#N)C1=CC=C(C=C1)NCC(=O)O | C9H8N2O2
